US05112988
A solution of (RS)-6-benzamidomethyl-7,7-diphenyl-1,4-dioxaspiro[4.5]decane (8.1 g) in anhydrous tetrahydrofuran (150 cc) is added dropwise, in the course of 1 hour 30 minutes and while the temperature of the reaction mixture is maintained at +5° C., to a suspension, cooled to +5° C. of lithium aluminum hydride (1.9 g) in anhydrous tetrahydrofuran (60 cc), and the mixture is then brought to reflux for 24 hours. The reaction mixture is then cooled to +5° C., treated with distilled water (2.1 cc), then with 5N aqueous sodium hydroxide solution (1.9 cc) and then with distilled water (5.8 cc), filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel with a slight excess pressure of nitrogen (0.04-0.063 mm, diameter 5 cm, height 29 cm), eluting with ethyl acetate and collecting 120-cc fractions. Fractions 3 to 12 are combined and concentrated to dryness under reduced pressure (2.7 kPa). (RS)-6-Benzylaminomethyl-7,7-diphenyl-1,4-dioxaspiro[4.5]decane (6.6 g) is obtained in the form of a yellow oil.

reactant | (RS)-6-benzamidomethyl-7,7-diphenyl-1,4-dioxaspiro[4.5]decane | 8.1 g | C(C1=CC=CC=C1)(=O)NCC1C2(OCCO2)CCCC1(C1=CC=CC=C1)C1=CC=CC=C1 | C28H29NO3
reactant | lithium aluminum hydride | 1.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2.1 cc | O | H2O
solvent | tetrahydrofuran | 150 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 cc | O1CCCC1 | C4H8O
product | (RS)-6-Benzylaminomethyl-7,7-diphenyl-1,4-dioxaspiro[4.5]decane | 6.6 g | C(C1=CC=CC=C1)NCC1C2(OCCO2)CCCC1(C1=CC=CC=C1)C1=CC=CC=C1 | C28H31NO2
